US08138215B2
Step 2: (R)-2-(Dimethylamino)-2-(2-fluorophenyl)acetic Acid
A mixture of (R)—((S)-1-phenylethyl) 2-(dimethylamino)-2-(2-fluorophenyl)acetate TFA salt (1.25 g, 3.01 mmol) and 20% Pd(OH)2/C (0.125 g) in ethanol (30 mL) was hydrogenated at room temperature and atmospheric pressure (H2 balloon) for 4 hours. The solution was then purged with Ar, filtered through diatomaceous earth (CELITE®), and concentrated in vacuo. This gave the title compound as a colorless solid (0.503 g, 98%). 1H NMR (400 MHz, CD3OD) δ 7.53-7.63 (m, 2H), 7.33-7.38 (m, 2H), 5.36 (s, 1H), 2.86 (s, 6H). LCMS: Anal. Calcd. for C10H12FNO2: 197; found: 198 (M+H)+.

reactant | (R)—((S)-1-phenylethyl) 2-(dimethylamino)-2-(2-fluorophenyl)acetate TFA salt | 3.01 mmol, 1.25 g | OC(=O)C(F)(F)F.CN([C@@H](C(=O)O[C@@H](C)C1=CC=CC=C1)C1=C(C=CC=C1)F)C
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | Pd(OH)2/C | 0.125 g | [OH-].[OH-].[Pd+2]
product | (R)-2-(Dimethylamino)-2-(2-fluorophenyl)acetic Acid | 0.503 g, 98% | CN([C@@H](C(=O)O)C1=C(C=CC=C1)F)C | C10H12FNO2
